US04347369
Trans-1,2-diamino-1,2,3,4-tetrahydronaphthalene (461 mg, 2.84 m mol) was dissolved in ethanol (8 ml), water (4 ml) was added to the solution, then carbon disulfide (190 μl, 3.17 m mol) was added thereto under stirring at room temperature. The mixture was heated under reflux for 4 hours and cooled in an ice-water bath. The crystals precipitating out were separated by filtration, washed with ether and dried in vacuum to give trans-3a,4,5,9b-tetrahydronaphth[1,2-d]imidazoline-2-thione (350 mg, 1.71 m mol) in 60% yield. The data spectroscopy and elemental analysis were as follows:

reactant | Trans-1,2-diamino-1,2,3,4-tetrahydronaphthalene | 461 mg | N[C@H]1[C@@H](CCC2=CC=CC=C12)N | C10H14N2
reactant | water | 4 ml | O | H2O
reactant | carbon disulfide | 190 μl | C(=S)=S | CS2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | trans-3a,4,5,9b-tetrahydronaphth[1,2-d]imidazoline-2-thione | 350 mg, 60% yield | N1C(N[C@H]2[C@H]1C1=CC=CC=C1CC2)=S | C11H12N2S
